Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Watery diarrhea, LLQ Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presenting with epigastic pain and watery diarrea. Pt was in 
her usual state of health until last evening. Pt had a ___ 
burger and ___ for dinner. States she tossed and turned in 
bed overnight and awoke at 6am with worsening abdominal 
bloating. Pt states she first experienced watery diarrhea at 7am 
and had >10 episodes throughout the morning. She states she had 
pain beginging at around 9am. She states the pain is worse in 
LLQ when compared to RLQ. Denies recent travel, no recent fresh 
water ingestion. No other individuals had similar symptoms. No 
fevers, chills.  
.  
In the ED, initial VS 99.6 ___ 16. Exam notable for LLQ 
tenderness and adnexal tenderness without cervical motion 
tenderness, guiac - trace positive. Labs notable for WBC 16.9, 
lactate of 3.1 which improved to 1.4. UCG negative. The pt 
underwent transvaginal u/s (normal ovaries and uterus. no 
evidence of torsion) and a CT scan that was unrevealing. The pt 
was seen by surgery that stated there was no urgent surgical 
need. The pt received IVF, Zofran, Compazine and Dilaudid. 
Vitals prior to transfer were stable.  
.  
On ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
constipation, +BRBPR with hx of hemorrhoids, no melena, 
hematochezia, dysuria, hematuria.  

 
Past Medical History:
# Frequent URIs, ?prior PNA  
# asthma (last on steroids ___ year ago)  
# Sinusitis,  
# Seasonal allergies  

 
Social History:
___
Family History:
Her father has a history of asthma.  

 
Physical Exam:
VS: 98.7 123/75 92 20 99RA  
GENERAL: Well-appearing female in NAD, comfortable, appropriate. 
 
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple, no thyromegaly, no JVD, no carotid bruits.  
HEART: Tachycardic, RRR, no MRG, nl S1-S2.  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: +Epigastic tenderness LLQ>RLQ. No rebound or guarding. 
+BS. No masses or HSM, no rebound/guarding. Negative ___ 
sign.  
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.  
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, steady gait.  
RECTAL: Normal Tone, Guaiac negative, yellowish stool
 
Pertinent Results:
Admission Labs:
___ 12:50PM   WBC-16.9* RBC-4.75 HGB-14.6 HCT-44.6 MCV-94 
MCH-30.6 MCHC-32.6 RDW-13.2
___ 12:50PM   NEUTS-90* BANDS-0 LYMPHS-8* MONOS-2 EOS-0 
BASOS-0 ___ MYELOS-0
___ 12:50PM   LIPASE-48
___ 12:50PM   ALT(SGPT)-25 AST(SGOT)-21 ALK PHOS-57 TOT 
BILI-0.9
___ 01:00PM   GLUCOSE-95 LACTATE-3.1* NA+-137 K+-3.8 
CL--108 TCO2-17*
___ 01:57PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 07:00PM   LACTATE-1.___ with hx of seasonal allergies here with 1d hx of watery 
diarrhea and abdominal pain.  She was diagnosed with Clostridium 
difficile-associated diarrhea and treatment with oral 
metronidazole was initiated, to which she responded well. Her 
symptoms had resolved and she was tolerating regular diet at the 
time of discharge.
 
Medications on Admission:
Zantac  
OCP  

 
Discharge Medications:
1. metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) as needed for c. difficile for 14 days.
Disp:*33 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Clostridium difficile diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for abdominal pain and diarrhea. You were 
found to have an infection called C. difficile diarrhea. You 
were treated with antibiotics called metronidazole which you 
should continue for a full 14 day course. It is important that 
you finish the full course of antibiotics. Do not consume 
alcohol while taking metronidazole.

You were also evaluated for viral studies which showed....
 
Followup Instructions:
___